* C:\Users\stha518\OneDrive - The University of Auckland\Documents\GitHub\ELECTENG311-\LTspice\LTSpice Simulation copy.asc
* Generated by LTspice 26.0.1 for Windows.
V1 5V_test 0 5V
V3 12V 0 12V
Q1 N001 N003 N008 0 2N3904
Q2 N004 N008 N011 0 2N2222
D6 N001 N004 QTLP690C
R4 N003 0 4.7k
R9 N011 0 50
V2 3.5V_test 0 3.5V
M1 N002 N006 5d 5d IRF7204
R5 N002 N005 2k
R6 N005 0 5k
R8 N002 0 10k
C2 N002 0 100µ
C3 N002 N005 10n
R1232 N013 N012 1.4
C6 N015 0 80µ
L1 3.5V_test N014 50µ
R14 N015 0 58
D1 N014 N015 D
M2 N014 Vout_555 0 0 IRF7404
R12 N007 N006 1k
R7 N010 N007 10k
C4 2.5V_test N010 10µ
V4 2.5V_test 0 2.5V
X§U4 0 Vrc Vout_555 3.5V_test N017 Vrc DIS 3.5V_test NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
C5 3.5V_test 0 10µ
C7 N017 0 0.1µ
C9 Vrc 0 2n
R15 3.5V_test DIS 35k
R16 DIS N016 15k
D4 DIS Vrc D
D5 Vrc N016 D
V5 5V_test2 0 5V
X§U1 N005 2.5V_test 5V_test 0 N007 TLC081 ;§pnba In+)In-)V+)V-)OUT
R17 2.5V_test N007 5k
D2 N002 5d D
V6 N009 0 5.0V
V7 5d N009 SINE(0 0.1 100 6m 0 0 10k)
Q3 N012 N012 N013 0 2N2222
R1 5d N006 500
.model D D
.lib C:\Users\stha518\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\stha518\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\stha518\AppData\Local\LTspice\lib\cmp\standard.mos
.lib LM324.lib
.tran 0 1 0 10m
.lib LTC.lib
* Notes
* Source(s)
* Linear Regulator (Charger)
* Boost Converter
.lib TLC081.mod
* npo current limiting
* Library below included based on ModelFile attribute of instance X§U4 (C:\Users\stha518\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
